US07745438B2
2-(S)-(2-Cyclohexylethyl)-5-(R)-formylmorpholine-4-carboxylic acid tert-butyl ester
Dissolve 2-(S)-(2-cyclohexylethyl)-5-(S)-hydroxymethylmorpholine-4-carboxylic acid tert-butyl ester (165 mg, 0.50 mmol) in dimethylsulfoxide (2 mL), and cool to 10° C. Add triethylamine (0.28 mL, 2.02 mmol) followed by pyridine sulfur trioxide complex and stir for 30 min. Dilute with ethyl acetate and pour into cold water. Wash with 5% citric acid (50 mL), saturated aqueous sodium chloride (50 mL) and dry (sodium sulfate), filter and concentrate give the desired compound as an oil which is used without further purification.

reactant | 2-(S)-(2-cyclohexylethyl)-5-(S)-hydroxymethylmorpholine-4-carboxylic acid tert-butyl ester | 0.50 mmol, 165 mg | C(C)(C)(C)OC(=O)N1C[C@@H](OC[C@@H]1CO)CCC1CCCCC1 | C18H33NO4
reactant | triethylamine | 2.02 mmol, 0.28 mL | C(C)N(CC)CC | C6H15N
reactant | water | O | H2O
solvent | dimethylsulfoxide | 2 mL | CS(=O)C | C2H6OS
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-(S)-(2-Cyclohexylethyl)-5-(R)-formylmorpholine-4-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C[C@@H](OC[C@@H]1C=O)CCC1CCCCC1 | C18H31NO4
